US04124764
(a) 1-Methyl-4-(1-methylhydrazino)pyrazolo[3,4-d]pyrimidine
1.7 g. of methylhydrazine is dissolved in 30 ml. of ethanol. 3.3 g. of 4-chloro-1-methylpyrazolo[3,4-d]pyrimidine is added portionwise. The mixture is refluxed for 30 minutes and then allowed to stand in the refigerator overnight. The mixture is filtered and the product, 1-methyl-4-(1-methylhydrazino)pyrazolo[3,4-d]pyrimidine, is recrystallized from ethanol-methanol, m.p. 213°-215° (yield 4.2 g.).

reactant | methylhydrazine | CNN | CH6N2
reactant | 4-chloro-1-methylpyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2)C | C6H5ClN4
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-4-(1-methylhydrazino)pyrazolo[3,4-d]pyrimidine | CN1N=CC=2C1=NC=NC2N(N)C | C7H10N6
